US09029545B2
N-{4-{[(3-Chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-2-yl}acetamide
To a stirred solution of N-{2-amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide (Description 85) (40 mg, 0.087 mmol) in DCM (3 mL) was added triethylamine (0.036 mL, 0.261 mmol) and acetyl chloride (7.42 ul, 0.104 mmol) and the mixture stirred at RT for ca. 1 h. NaHCO3 solution (25 mL) was then added and the mixture extracted with DCM (20 mL×3) and the combined organics dried and concentrated. The residue was purified by normal phase chromatography, eluting with a gradient of 0-50% ethyl acetate in DCM and was then further purified by MDAP (acidic conditions), to give the title compound (5.8 mg). LCMS (A) m/z: 502 [M+1]+, Rt 1.05 min (acidic).

reactant | N-{2-amino-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide | 0.087 mmol, 40 mg | NC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C1=CC(=CC=C1)OC | C21H18ClN3O3S2
reactant | triethylamine | 0.261 mmol, 0.036 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.104 mmol, 7.42 ul | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{4-{[(3-Chlorophenyl)sulfonyl]amino}-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-2-yl}acetamide | 5.8 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C2=CC(=CC=C2)OC)NC(C)=O | C23H20ClN3O4S2
